US20010047031A1
(2RS, 3RS) and (2RS 3SR)-4-[1-(2-Hydroxy-4-phenyl-butyl)-piperidin-3-yl-sulfanyl]-phenol
The title compound, MS: m/e=358.2 (M+H+) was prepared from (RS)-4-(piperidin-3-yl-sulfanyl)-phenol hydrobromide and (RS)-2-phenethyl-oxirane.

reactant | (RS)-4-(piperidin-3-yl-sulfanyl)-phenol hydrobromide | Br.N1CC(CCC1)SC1=CC=C(C=C1)O
reactant | (RS)-2-phenethyl-oxirane | C(CC1=CC=CC=C1)C1OC1 | C10H12O
product | (2RS 3SR)-4-[1-(2-Hydroxy-4-phenyl-butyl)-piperidin-3-yl-sulfanyl]-phenol | OC(CN1CC(CCC1)SC1=CC=C(C=C1)O)CCC1=CC=CC=C1 | C21H27NO2S
